US04148784
38.8 g (0.2 mol) of methyl t-butylsulphonyl-acetate, prepared according to the method of von Leusen and Strating, Rec. Trav, Chim. 84, 140 (1965), and 31.4 g (0.2 mol) of 4-hydroxy-2,2,6,6-tetramethylpiperidine are dissolved in 50 ml of xylene. The mixture is warmed to 130°, 0.2 g of lithium amide in 50 ml of xylene is added and the mixture is stirred for 12 hours at 130°-140°. The xylene is removed in vacuo and the residue is distilled to give 2,2,6,6-tetramethyl-4-piperidinyl t-butyl-sulphonyl-acetate; yield: 33.7 grams, boiling point 153°-154°/10-3 mm Hg.

reactant | methyl t-butylsulphonyl-acetate | 0.2 mol, 38.8 g | C(C)(C)(C)S(=O)(=O)CC(=O)OC | C7H14O4S
reactant | 4-hydroxy-2,2,6,6-tetramethylpiperidine | 0.2 mol, 31.4 g | OC1CC(NC(C1)(C)C)(C)C | C9H19NO
reactant | lithium amide | 0.2 g | [NH2-].[Li+]
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2,2,6,6-tetramethyl-4-piperidinyl t-butyl-sulphonyl-acetate | C(C)(C)(C)S(=O)(=O)CC(=O)OC1CC(NC(C1)(C)C)(C)C | C15H29NO4S
